US03941821
To 4.5 g. of ethyl 2'-amino-4-biphenylylglycolate supsension in 125 ml. of 80% hydrochloric acid and cooled to 0°C is added dropwise a solution of 1.2 g. of sodium nitrite in 15 ml. of water. After about 10 min., 200 ml. of 50% hydrochloric acid is added portion wise and stirred for 15 hours. The reaction mixture is then poured onto ice water and extracted with chloroform, dried over sodium sulfate and concentrated in vacuo. The residue is crystallized to obtain 3-hydroxy-4-biphenylylglycolic acid.

reactant | ethyl 2'-amino-4-biphenylylglycolate | NC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H17NO3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-hydroxy-4-biphenylylglycolic acid | OC=1C=C(C=CC1C(C(=O)O)O)C1=CC=CC=C1 | C14H12O4
